US06414149B1
Step B: 7-Chloro-furo[3,2-c]pyridine-2-carboxylic acid chloride
7-Chloro-furo[3,2-c]pyridine-2-carboxylic acid (prepared according to the method of Example 132, Step A, 8.94 g, 45.2 mmol) was combined with thionyl chloride (30 mL) and sodium carbonate (9.59 g, 90.5 mmol) and heated to reflux for 16 h under nitrogen atmosphere. The cooled mixture was diluted with dichloromethane and filtered. The filtrate was evaporated to give the title compound of Example 132, Step B as an orange oil, 9.19 g (94%). The acid chloride was used directly without further purification.

reactant | 7-Chloro-furo[3,2-c]pyridine-2-carboxylic acid | ClC=1C2=C(C=NC1)C=C(O2)C(=O)O | C8H4ClNO3
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | 90.5 mmol, 9.59 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-Chloro-furo[3,2-c]pyridine-2-carboxylic acid chloride | ClC=1C2=C(C=NC1)C=C(O2)C(=O)Cl | C8H3Cl2NO2
